US07538135B2
A mixture of the title A compound, 4-hydroxybenzenesulfonic acid disodium salt (0.72 g, 3.3 mmol) and 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole (1.0 g, 3.63 mmol) in 5 mL of DMF is stirred and heated under nitrogen at 110° C. for 16 h. The cooled reaction mixture is filtered and the solid obtained is washed thoroughly with DCM. The solid is dried overnight to give 4-(5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethoxy)-benzenesulfonic acid sodium salt: MS [m/z] 412.79 [M-1]−.

reactant | 4-hydroxybenzenesulfonic acid disodium salt | 3.3 mmol, 0.72 g | [Na+].[Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-].OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | 3.63 mmol, 1.0 g | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethoxy)-benzenesulfonic acid sodium salt | [Na+].CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)COC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C18H14F3NO5S.Na/c1-11-16(10-26-14-6-8-15(9-7-14)28(23,24)25)22-17(27-11)12-2-4-13(5-3-12)18(19,20)21;/h2-9H,10H2,1H3,(H,23,24,25);/q;+1/p-1
